US09447091B2
b) 4-Azido-2-methylbutan-2-ol
To a mixture of 4-bromo-2-methylbutan-2-ol (0.4 g, 2.4 mmol) and triethylamine (1 ml, 7 mmol, 3 eq.) in CH2Cl2 (15 ml) was added sodium azide (0.47 g, 7 mmol, 3 eq.) in H2O (5 ml) and the mixture was allowed to stir overnight. The mixture was quenched with water and extracted with CH2Cl2 (3×50 ml). The combined organic layer was washed with water, brine and dried over sodium sulphate. The solvent was distilled off to afford the product in 65% yield (0.2 g). 1H NMR (300 MHz, DMSO-d6): δ 4.39 (br s, 1H), 3.40-3.32 (m, 2H), 1.15 (t, 2H), 1.23-1.04 (m, 6H).

reactant | 4-bromo-2-methylbutan-2-ol | 2.4 mmol, 0.4 g | BrCCC(C)(O)C | C5H11BrO
reactant | triethylamine | 7 mmol, 1 ml, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 7 mmol, 0.47 g, 3 eq. | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 ml | O | H2O
product | 4-Azido-2-methylbutan-2-ol | 65% yield | N(=[N+]=[N-])CCC(C)(O)C | C5H11N3O
